US08809373B2
3,3-Dimethylnonan-2-imine
To a solution of dimethyl heptylcyanide (1.00 g, 6.53 mmol) in anhydrous diethyl ether (5 mL) was added under argon 1.6 M methyl lithium in diethyl ether (25 mL, 39.00 mmol), and the mixture was stirred for 3 hours at room temperature. After quenching with water, the mixture was extracted with diethyl ether. The extracts were dried over anhydrous Na2SO4 and the solvent was evaporated under reduced pressure to get a colorless oil which was pure enough to carry out for further reactions based on analytical data. (1.03 g, 94%). 1H NMR (300 MHz, CDCl3): ∂ 0.80-0.85 (m, 3H), 0.92-1.05 (m, 3H), 1.15-1.28 (m, 14H), 1.54-1.6 (m, 2H), 3.4 (s, 1H). (ESI, Pos) m/z 170.2

reactant | dimethyl heptylcyanide | 6.53 mmol, 1.00 g | CC(CCCCCC)(C)C#N | C10H19N
reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 39.00 mmol, 25 mL | C(C)OCC | C4H10O
product | 3,3-Dimethylnonan-2-imine | CC(C(C)=N)(CCCCCC)C | C11H23N
